US05073641
2-(4-HYDROXYBENZOYLOXY)-N,N-DIETHYLACETAMIDE
A mixture of 4-hydroxybenzoic acid (1.38 g, 0.01 mol), 2-chloro-N,N-diethylacetamide (1.4 g, 0.01 mol) triethylamine (1.44 ml. 0.01 mol) and sodium iodide (150 mg, 0.001 mol) in N,N-dimethylformamide (6 ml) was stirred at room temperature for 18 h. Water (100 ml) was added and the mixture allowed to stand at 4° C. for 5 h. The title compound was isolated by filtration, washed with water and recrystallized from ethanol-water to give 1.8 g. Mp 148°-149° C.

reactant | 4-hydroxybenzoic acid | 0.01 mol, 1.38 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 2-chloro-N,N-diethylacetamide | 0.01 mol, 1.44 ml, 1.4 g | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | sodium iodide | 0.001 mol, 150 mg | [I-].[Na+]
reactant | Water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-(4-HYDROXYBENZOYLOXY)-N,N-DIETHYLACETAMIDE | OC1=CC=C(C(=O)OCC(=O)N(CC)CC)C=C1 | C13H17NO4
